US08476261B2
49A) Preparation of Ethyl 2-(1-hydroxycyclobutyl)propionate
Trimethylchlorosilane (950 μL, 7.43 mmol) was added by syringe to a suspension of zinc powder (6.65 g, 0.102 mol) in absolute Et2O (170 mL). The mixture was stirred for 15 minutes at room temperature, heated to reflux, the heat source removed, and ethyl 2-bromopropionate (10.1 mL, 77.8 mmol) was added at such a rate that the ether gently boiled. After being heated to reflux for 1 hour, the mixture was stirred for 1 hour at room temperature. A solution of cyclobutanone (5.00 g, 63.2 mmol) in Et2O (10 mL) was added while the temperature of the mixture was maintained at 19-20° C. by intermittent cooling. After stirring for 1 hour at room temperature, the mixture was poured into iced 25% ammonia (400 mL). The aqueous phase was extracted with ether, the combined organic phases were dried over K2CO3, and concentrated. the title compound was given as a colorless oil (12.9 g, 100%). 1H-NMR (400 MHz, CDCl3) δ 1.21 (3H, d, J=6.8 Hz), 1.29 (3H, t, J=7.3 Hz), 1.51-1.64 (1H, m), 1.80-1.90 (1H, m), 1.96-2.17 (4H, m), 2.70 (1H, q, J=7.3 Hz), 3.44 (1H, s), 4.18 (2H, qd, J=7.3 and 1.2 Hz).

reactant | Trimethylchlorosilane | 7.43 mmol, 950 μL | C[Si](Cl)(C)C | C3H9ClSi
reactant | ethyl 2-bromopropionate | 77.8 mmol, 10.1 mL | BrC(C(=O)OCC)C | C5H9BrO2
reactant | cyclobutanone | 63.2 mmol, 5.00 g | C1(CCC1)=O | C4H6O
reactant | ammonia | 400 mL | N | H3N
solvent | Et2O | 170 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | zinc | 0.102 mol, 6.65 g | [Zn] | Zn
product | Ethyl 2-(1-hydroxycyclobutyl)propionate | OC1(CCC1)C(C(=O)OCC)C | C9H16O3
